US08217032B2
8-Fluoro-6-methyl-5-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-5,6-dihydro-benzo[i]phenanthridin-2-ol
To a round bottom flask add 2-benzyloxy-8-fluoro-6-methyl-5-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-5,6-dihydro-benzo[i]phenanthridine (0.030 g, 0.052 mmol), ammonium formate (0.026 g, 0.42 mmol), methanol (5 mL) and a slurry of 10% Pd/C (0.005 g, ˜15% by weight) and ethanol (2 mL). Heat the mixture, with stirring, at reflux for 30 minutes. Cool the reaction to ambient temperature and filter it through a pad of Celite, then rinse the Celite with hot methanol. Evaporate the filtrate in vacuo and purify the resulting residue by radial chromatography over silica (5-10% MeOH gradient in CH2Cl2) to provide the product 20 mg (80%); mass spectrum (ion spray) m/z=483 (M+H).

reactant | 2-benzyloxy-8-fluoro-6-methyl-5-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-5,6-dihydro-benzo[i]phenanthridine | 0.052 mmol, 0.030 g | C(C1=CC=CC=C1)OC1=CC2=C(C=3C(N(C=4C=C(C=CC4C3C=C2)F)C)C2=CC=C(C=C2)OCCN2CCCCC2)C=C1 | C38H37FN2O2
reactant | ammonium formate | 0.42 mmol, 0.026 g | C(=O)[O-].[NH4+]
reactant | methanol | 5 mL | CO | CH4O
catalyst | Pd/C | 0.005 g | [Pd] | Pd
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 8-Fluoro-6-methyl-5-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-5,6-dihydro-benzo[i]phenanthridin-2-ol | 20 mg, 80% | FC=1C=CC=2C=3C=CC4=C(C3C(N(C2C1)C)C1=CC=C(C=C1)OCCN1CCCCC1)C=CC(=C4)O | C31H31FN2O2
